* Z:\mnt\design.r\spice\examples\1438.asc
C1 N021 0 .01µ
C2 N022 0 100p
C3 N023 0 .01µ
M§Q1 IN N010 N011 N011 Si4410DY
M§Q2 N011 N014 0 0 Si4410DY
L1 N011 N012 10µ
D1 0 N011 1N5818
R1 N012 OUT2 .03
C4 N002 N011 .1µ
D2 N001 N002 1N5818
D3 N001 N005 1N5818
M§Q3 IN N007 N009 N009 Si4410DY
M§Q4 N009 N013 0 0 Si4410DY
L2 N009 N008 10µ
D4 0 N009 1N5818
R2 N008 OUT1 .03
C5 N005 N009 .1µ
C6 OUT1 0 220µ
C7 OUT2 0 220µ
R3 N020 0 10K
C8 N018 N020 1000p
C9 N020 0 470p
R4 N019 0 10K
C10 N017 N019 1000p
C11 N019 0 470p
C12 N012 OUT2 1000p
C13 N008 OUT1 1000p
Q5 N006 N004 IN 0 2N2907
R5 N006 0 10K
R6 IN N004 1K
V1 IN 0 20
R7 N016 0 100K
R8 OUT2 N016 177K
C14 N006 0 1µ
XU1 N021 N008 OUT1 N001 N017 MP_01 N022 0 MP_02 MP_03 N015 N018 MP_04 N016 OUT2 N012 N023 N004 N006 OUT1 N002 N010 N011 MP_05 N003 N014 0 N001 N013 IN MP_06 N009 N007 N005 LTC1438
Rload1 OUT1 0 10
Rload2 OUT2 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6.6m startup
.lib LTC1438.sub
.backanno
.end
